US05750531
Step 1: 5-Methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine
In accordance with the same procedure as in Step 1 of Example 1, except that 1,2,3,4-tetrahydroisoquinoline(3.5 ml, 28 mmol) and 2,4-dichloro-5-methyl-6-ethylpyrimidine(4.9 g, 27.7 mmol) prepared in Preparation 4 were used as starting materials, 5.0 g of the titled compound was prepared.

reactant | 1,2,3,4-tetrahydroisoquinoline | 28 mmol, 3.5 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 2,4-dichloro-5-methyl-6-ethylpyrimidine | 27.7 mmol, 4.9 g | ClC1=NC(=C(C(=N1)Cl)C)CC | C7H8Cl2N2
product | 5-Methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.0 g, Yield: 66% | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
